US07923450B2
b) [5-Benzyl-7-(2-chloro-phenyl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (100 mg, 0.38 mmol) and of crude 6-bromo-2-(2-chloro-phenyl)-cyclohexanone hydrobromide (163 mg, 0.36 mmol) in ethanol (5 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. N,N-diisopropyl ethyl amine (49 mg, 0.38 mmol) was added and the reaction was heated to reflux over night. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was treated with dichloromethane/methanol/concentrated aqueous NH4OH solution (9:1:0.1 v/v/v). The precipitate was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (6 mg, 3%) as a yellow solid. MS ISP (m/e): 541.9/543.9 (100/35) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.60 (s, 1H), 7.37 (m, 2H), 7.26 (m, 5H), 7.09-7.18 (m, 4H), 6.82 (s, 1H), 6.66 (d, 1H), 4.70 (m, 1H), 3.74 (m, 3H), 3.60 (s, 3H), 3.19 (dd, 1H), 2.81 (dd, 1H), 2.28 (s, 2H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.38 mmol, 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 6-bromo-2-(2-chloro-phenyl)-cyclohexanone hydrobromide | 0.36 mmol, 163 mg | Br.BrC1CCCC(C1=O)C1=C(C=CC=C1)Cl
reactant | N,N-diisopropyl ethyl amine | 0.38 mmol, 49 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | [5-Benzyl-7-(2-chloro-phenyl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine | 6 mg, 3% | C(C1=CC=CC=C1)N1CC2=C(C(C1)C1=C(C=CC=C1)Cl)N=C(S2)NC2=CC(=C(C=C2)N2C=NC(=C2)C)OC | C30H28ClN5OS
